US09238631B2
c) Di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-{(E)-3-[4-(3-hydroxypropyl)phenyl]-prop-2-en-1-yl}-L-glutamate
To a solution of di-tert-butyl (4S)-4-allyl-N-(tert-butoxycarbonyl)-L-glutamate (940 mg, 2.53 mmol) in 5 mL acetonitrile under an argon atmosphere was added 3-(4-iodophenyl)propan-1-ol (740 mg, 2.82 mmol), triethylamine (394 μl, 2.82 mmol), and palladium(II) acetate (106 mg, 0.47 mmol). The mixture was stirred in a pressure tube at 80° C. for 2 h. After cooling to room temperature, the solvent was removed under reduced pressure and the crude material was purified on silica gel using a hexane/ethyl acetate gradient, and the appropriate fractions were combined and concentrated.

reactant | di-tert-butyl (4S)-4-allyl-N-(tert-butoxycarbonyl)-L-glutamate | 2.53 mmol, 940 mg | C(C=C)[C@@H](C[C@H](NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C21H37NO6
reactant | 3-(4-iodophenyl)propan-1-ol | 2.82 mmol, 740 mg | IC1=CC=C(C=C1)CCCO | C9H11IO
reactant | triethylamine | 2.82 mmol, 394 μl | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
catalyst | palladium(II) acetate | 0.47 mmol, 106 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-{(E)-3-[4-(3-hydroxypropyl)phenyl]-prop-2-en-1-yl}-L-glutamate | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)C\C=C\C1=CC=C(C=C1)CCCO)C(=O)OC(C)(C)C | C30H47NO7
